US07538112B2
Step 1: N-[10-(Benzyloxy)-2-(4-fluorobenzyl)-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazin-4-yl]acetamide
To a mixture of 4-amino-2-(4-fluorobenzyl)-10-benzyloxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (21 mg, 47 μmol) and diisopropylethylamine (10 μL, 56 μmol) in anhydrous chloroform (2 mL), acetyl chloride (8 μL, 104 μmol) was added. The mixture was stirred at room temperature for 30 minutes and concentrated under vacuum. The intermediate bisacetylated product was dissolved in methanol, stirred at room temperature overnight, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel. Collection and concentration of appropriate fractions provided the title monoacetylated product.

reactant | 4-amino-2-(4-fluorobenzyl)-10-benzyloxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 47 μmol, 21 mg | NC1=NN(C(C2=C1N1C(=C2OCC2=CC=CC=C2)C(N(CC1)C)=O)=O)CC1=CC=C(C=C1)F | C24H22FN5O3
reactant | diisopropylethylamine | 56 μmol, 10 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 104 μmol, 8 μL | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[10-(Benzyloxy)-2-(4-fluorobenzyl)-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazin-4-yl]acetamide | C(C1=CC=CC=C1)OC1=C2N(C=3C(=NN(C(C31)=O)CC3=CC=C(C=C3)F)NC(C)=O)CCN(C2=O)C | C26H24FN5O4
